US07488844B2
(i) N-Heptyl-2,3-dimethoxybenzamide
To a solution of 2,3-dimethoxybenzoic acid (4.55 g, 25.0 mmol) in methylene chloride (250 mL) were added heptylamine (2.78 g, 27.5 mmol) and DMAP (3.36 g, 27.5 mmol) followed by 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.27 g, 27.5 mmol) and the reaction mixture was stirred at room temperature overnight. The resulting solution was washed with 5% HCl (3×100 mL), saturated aqueous NaHCO3 (100 mL), and brine (100 mL) and dried over MgSO4. Concentration in vacuo afforded 6.81 g (98%) of a colourless oil.

reactant | 2,3-dimethoxybenzoic acid | 25.0 mmol, 4.55 g | COC1=C(C(=O)O)C=CC=C1OC | C9H10O4
reactant | heptylamine | 27.5 mmol, 2.78 g | C(CCCCCC)N | C7H17N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 27.5 mmol, 5.27 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 27.5 mmol, 3.36 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Heptyl-2,3-dimethoxybenzamide | 6.81 g, 98% | C(CCCCCC)NC(C1=C(C(=CC=C1)OC)OC)=O | C16H25NO3
